*source LM2903B
* PSpice Model Editor - Version 17.4.0
*$
* LM2903B
*****************************************************************************
* (C) Copyright 2019 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model
*
*****************************************************************************
*
** Released by: Texas Instruments Inc.
* Part: LM2903B
* Date: 9/30/2021
* Model Type: All In One
* Simulator: PSPICE 
* Simulator Version: 17.4.0.p001
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
* Datasheet: SCLS005AE - November 2020
* Model Version: 1.0
*
*****************************************************************************
*
* Updates:
*
* Version 1.0 : Release to Web        
*
*****************************************************************************
* Notes:
* The following parameters are modeled: 
* Iq, tpd, Vcm, Vs, Vhys, Ib, Vos, 
* If either input goes beyond the recommended maximum range, the output will float to mid supply for the respective output
* If the supply goes beyond the recommended maximum range, both outputs will float to mid supply
*
*****************************************************************************
*EPSA_double Comparator
.SUBCKT LM2903B_Dual OUT1 IN1- IN1+ GND IN2+ IN2- OUT2 Vcc
XU1A IN1+ IN1- Vcc GND OUT1 LM2903B
XU1B IN2+ IN2- Vcc GND OUT2 LM2903B
.ENDS


* source LM2903B
.SUBCKT LM2903B IN+ IN- Vcc GND OUT   
X_U4 N21103 N858868 Prop_Delay  
X_U2 IN-BUFF IN+BUFF N21168 V+_BUFFER V-_BUFFER INPUTRANGE  
X_U5 N21237 GND N21168 0 V+_BUFFER V-_BUFFER VCC N858872 OUT Output_Stage  
X_U6 GND V+_BUFFER V-_BUFFER VCC Supply_Buffer  
X_U3         N785573 IN-BUFF N21103 V+_BUFFER V-_BUFFER N852568 HPA_COMPHYS
I_IS         N843683 GND DC 550u  
X_U7 N21237 0 V+_BUFFER V-_BUFFER Supply_Enable  
X_U1 IN+ IN+BUFF IN- IN-BUFF Input_Buffer  
I_IBP         IN+ GND DC -3.5n  
I_IBN         IN- GND DC -3.5n  
V_VOS         N785573 IN+BUFF 0.37m
R_RIS         N843683 VCC  1u TC=0,0 
C_CINPL         GND IN+  0.5p  TC=0,0 
C_CINNL         GND IN-  0.5p  TC=0,0 
C_CINPH         IN+ VCC  0.5p  TC=0,0 
C_CINNH         IN- VCC  0.5p  TC=0,0 
V_VHYST         N852568 0 0
E_E1         N858872 V-_BUFFER N858868 V-_BUFFER 2
.ENDS
 
.SUBCKT Input_Buffer IN+ IN+_BUFF IN- IN-_BUFF  
X_U1         IN+ IN- IN+_BUFF IN-_BUFF SUPPLY_BUFFER1 
.ENDS
 
.SUBCKT Supply_Enable EN POR V+_BUFFER V-_BUFFER  
X_U15         N780252 N780066 POR 1V 0 VCC_Range
X_U13         V+_BUFFER V-_BUFFER N780066 1V 0 Difference
V_VLOGIC         1V 0 1
V_VS_MIN_SET         N780252 0 1.99
X_U5         N780066 N779976 N780086 1V 0 VCC_Range
V_VS_MAX_SET         N779976 0 36.01
X_U16         N780086 POR EN 1V 0 ORGATE 
.ENDS
 
.SUBCKT Supply_Buffer GND V+_BUFFER V-_BUFFER Vcc  
X_U1         VCC GND V+_BUFFER V-_BUFFER SUPPLY_BUFFER1 
.ENDS
 
.SUBCKT Output_Stage EN GND IN_RANGE POR V+_BUFFER V-_BUFFER Vcc VIN VOUT  
X_SMID    CONTROL_MID 0 N778484 MID Output_Stage_SMID 
X_U3         VIN N774212 V+_BUFFER V-_BUFFER VCC N774290 DIGLEVSHIFT
X_U7         MID V+_BUFFER V-_BUFFER MID_SUPPLY
V_VLOGIC         1V 0 1
V_V1         VCC N774290 1
X_SHIZ    CONTROL_HIZ 0 N778484 N778496 Output_Stage_SHIZ 
X_U8          POR IN_RANGE EN EN CONTROL_HIZ 1V 0 4ORGATE
X_U9         CONTROL_HIZ N789513 1V 0 INVERTER
X_U10         N789513 POR CONTROL_MID 1V 0 ORGATE 
L_L1         N778484 VOUT  1n  
C_COUTH         VOUT VCC  0.5p  TC=0,0 
C_COUTL         GND VOUT  0.5p  TC=0,0 
X_SVOL    N774212 N774290 GND N850209 Output_Stage_SVOL 
R_ROUTL         N850209 N778496  60 TC=0,0 
.ENDS
 
.SUBCKT INPUTRANGE INN INP INRANGE V+_BUFFER V-_BUFFER  
V_VCMNP         N20415 V-_BUFFER -110m
V_VCMPN         N202710 V+_BUFFER -2
X_U1         N20155 INP N20826 V+_BUFFER V-_BUFFER VINRANGE_393
V_VCMPP         N20155 V+_BUFFER -2
V_VCMNN         N20539 V-_BUFFER -110m
X_U21         N202710 INN N20833 V+_BUFFER V-_BUFFER VINRANGE_393
X_U22         INP N20415 N20840 V+_BUFFER V-_BUFFER VINRANGE_393
X_U23         INN N20539 N20531 V+_BUFFER V-_BUFFER VINRANGE_393
X_U24         N20826 N20833 N20840 N20531 INRANGE V+_BUFFER V-_BUFFER 4ORGATE 
.ENDS
 
.SUBCKT Prop_Delay VIN VOUT  
T_TPD         N03175 0 VOUT 0 Z0=50 TD=1.22u  
R_RT         0 VOUT  50 TC=0,0 
R_RS         N03175 VIN  50 TC=0,0 
.ENDS

.subckt Output_Stage_SMID 1 2 3 4  
S_SMID         3 4 1 2 _SMID
RS_SMID         1 2 1G
.MODEL         _SMID VSWITCH Roff=1e12 Ron=1.0 Voff=1 Von=0
.ends Output_Stage_SMID

.subckt Output_Stage_SHIZ 1 2 3 4  
S_SHIZ         3 4 1 2 _SHIZ
RS_SHIZ         1 2 1G
.MODEL         _SHIZ VSWITCH Roff=1e12 Ron=1.0 Voff=1 Von=0
.ends Output_Stage_SHIZ

.subckt Output_Stage_SVOL 1 2 3 4  
S_SVOL         3 4 1 2 _SVOL
RS_SVOL         1 2 1G
.MODEL         _SVOL VSWITCH Roff=1e12 Ron=1.0 Voff=1 Von=0
.ends Output_Stage_SVOL

.SUBCKT ANDGATE 1 2 3 VDD VSS
E1 4 0 VALUE = { IF( ((V(1)> (V(VDD)+V(VSS))/2 ) & (V(2)> (V(VDD)+V(VSS))/2 )), V(VDD), V(VSS) ) }
R1 4 3 1
C1 3 0 1e-12
.ENDS
*$
.SUBCKT HPA_COMPHYS INP INN OUT_OUT VDD VSS VHYS
EVMID VMID 0 VALUE = { ( V(VDD) + V(VSS) )/2 }
EVH VH 0 VALUE = { ( V(VHYS)/2) }
EINNNEW INNNEW 0 VALUE = { IF( ( V(OUT_OUT) < V(VMID) ),(V(INN) + (V(VH))),( V(INN) - V(VH) ) ) }
EOUT OUT 0 VALUE = { IF( ( V(INP) > V(INNNEW) ), V(VDD), V(VSS) ) }
R1 OUT OUT_OUT 1
C1 OUT_OUT 0 1e-12
.ENDS
*$
.SUBCKT DIGLEVSHIFT 1 2 VDD_OLD VSS_OLD VDD_NEW VSS_NEW
*E1 3 0 VALUE = { IF( V(1) < (V(VDD_OLD)+V(VSS_OLD))/2, V(VSS_NEW), V(VDD_NEW) ) }

E1 3 0 VALUE = { IF( V(1) < 1, V(VSS_NEW), V(VDD_NEW) ) }

R1 3 2 1
*C1 2 0 1e-12
.ENDS
*$
.SUBCKT ENABLE_LOGIC 1 2 OUT VDD VSS 
EVMID VMID 0 VALUE = { ( V(VDD) + V(VSS) )/2 }
EOUT OUT 0 VALUE = { IF( ( V(1) > V(VMID) ), V(2), V(VSS) ) }
R1 OUT 2 1
C1 2 0 1e-12
.ENDS
*$
.SUBCKT ENABLE_TLV7021 1 2 3 OUT VDD VSS 
EVMID VMID 0 VALUE = { ( V(VDD) + V(VSS) )/2 }
EOUT OUT2 0 VALUE = { IF( ( V(1) > V(VMID) ), V(2), V(3) ) }
R1 OUT2 OUT 1
C1 OUT 0 1e-12
.ENDS
*$
.SUBCKT INNNEWPOR 1 2 3 OUT VDD VSS 
EVMID VMID 0 VALUE = { ( V(VDD) + V(VSS) )/2 }
EOUT OUT2 0 VALUE = { IF( ( V(1) < V(VMID) ), V(VSS), V(VDD) ) }
R1 OUT2 OUT 1
C1 OUT 0 1e-12
.ENDS
*$
.SUBCKT INPNEWPOR 1 2 3 OUT VDD VSS 
EVMID VMID 0 VALUE = { ( V(VDD) + V(VSS) )/2 }
EOUT OUT2 0 VALUE = { IF( ( V(1) < V(VMID) ), V(VDD), V(VSS) ) }
R1 OUT2 OUT 1
C1 OUT 0 1e-12
.ENDS
*$
.SUBCKT VIN_INV 1 2 VDD VSS
E2 2 0 VALUE = { IF( V(1)> (V(VDD)+V(VSS))/2, V(VSS), V(VDD) ) }
C1 2 0 1e-12
.ENDS
*$
.SUBCKT INVERTER 1 2 VDD VSS
E2 2 0 VALUE = { IF( V(1)> (V(VDD)+V(VSS))/2, V(VSS), V(VDD) ) }
C1 1 0 1e-12
.ENDS
*$
.SUBCKT MID_SUPPLY OUT VDD VSS
EVMID VMID 0 VALUE = { ( V(VDD) + V(VSS) )/2 }
EOUT OUT 0 VALUE = {V(VMID)}
.ENDS
*$
.SUBCKT ORGATE 1 2 3 VDD VSS
E1 4 0 VALUE = { IF( ((V(1)< (V(VDD)+V(VSS))/2 ) & (V(2)< (V(VDD)+V(VSS))/2 )), V(VSS), V(VDD) ) }
R1 4 3 1
C1 3 0 1e-12
.ENDS
*$
.SUBCKT NOR_GATE 1 2 OUT VDD VSS
EOUT OUT 0 VALUE = { IF( ((V(1)< (V(VDD)+V(VSS))/2 ) & (V(2)< (V(VDD)+V(VSS))/2 )), V(VDD), V(VSS) ) }
R1 OUT 2 1
C1 OUT 0 1e-12
.ENDS
*$
.SUBCKT ORGATE1701 1 2 3 4 OUT VDD VSS
EOUT OUT 0 VALUE = { IF( ((V(1)< (V(VDD)+V(VSS))/2 ) & (V(2)< (V(VDD)+V(VSS))/2 )), V(3), V(4) ) }
.ENDS
*$
.SUBCKT PORCHECK 1 2 OUT VDD VSS 
EOUT OUT 0 VALUE = { IF( ( V(2) < V(1) ), V(VSS), V(VDD) ) }
R1 OUT 2 1
C1 2 0 1e-12
.ENDS
*$
.SUBCKT Difference 1 2 OUT VDD VSS 
EOUT OUT1 0 VALUE = { V(1)- V(2)}
R1 OUT1 OUT 1
*C1 OUT 0 1e-12
.ENDS
*$
.SUBCKT SUPPLY_BUFFER1 1 2 VDD_NEW VSS_NEW 
EVDD_NEW VDD_NEW 0 VALUE = {V(1)}
EVSS_NEW VSS_NEW 0 VALUE = {V(2)}
.ENDS
*$
.SUBCKT VCC_Range 1 2 OUT VDD VSS 
EOUT OUT2 0 VALUE = { IF( ( V(1) >= V(2) ), V(VDD), V(VSS) ) }
R1 OUT OUT2 1
C1 OUT 0 1e-12
.ENDS
*$
.SUBCKT VINRANGE_393 1 2 OUT VDD VSS 
EOUT OUT2 0 VALUE = { IF( ( V(1) >= V(2) ), V(VSS), V(VDD) ) }
R1 OUT2 OUT 1
C1 OUT 0 1e-12
.ENDS
*$
.subckt SHUTDOWNCURRENT SHUTDOWN 2 3 OUT VDD VSS
EOUT OUT2 0 VALUE = {IF ((V(SHUTDOWN) > (V(VSS) + 0.4)), V(2), V(3))}
R1 OUT OUT2 1
C1 OUT 0 1e-12 
.ENDS
*$
.subckt SHUTDOWNOUTPUT DISABLE ENABLE SHUTDOWN  VSS OUT
EOUT OUT 0 VALUE = {IF ((V(SHUTDOWN) <= (V(VSS) + 0.4)), V(DISABLE), V(ENABLE))}
C1 OUT 0 1e-12
.ENDS
*$
.SUBCKT NORGATE 1 2 OUT VDD VSS
EOUT OUT2 0 VALUE = { IF( ((V(1)< (V(VDD)+V(VSS))/2 ) & (V(2)< (V(VDD)+V(VSS))/2 )), V(VDD), V(VSS) ) }
R1 OUT2 OUT 1
C1 OUT 0 1e-12
.ENDS
*$
.MODEL NPN1 NPN LEVEL=1 IS=1E-16 RB=850 RC=1 TF=5n 
*$
.MODEL PNP1 PNP LEVEL=1 IS=1E-16 RB=850 RC=1 TF=5n 
*$
.SUBCKT LE_HYST LEHYST V- V-_BUF V+_BUF LATCH_OUT HYST_OUT
V_VLATCH         N00729 V- 1.25
R_RPU         N00729 LEHYST  40k TC=0,0 
E_EIN         VLE V-_BUF LEHYST V- 1
R_R1         V-_BUF LATCH_OUT  1k TC=0,0 
R_R2         V-_BUF VLE  1k TC=0,0
R_R3         V-_BUF HYST_OUT  1k TC=0,0  
E_ELATCH   LATCH_OUT V-_BUF VALUE = { IF( V(VLE)<= 0.4, 0, 5 ) }
*E_EHYST     HYST_OUT V-_BUF VALUE = { IF( V(VLE)<= 1.25,V(VLE),0 ) }
E_EHYST     HYST_OUT V-_BUF TABLE {V(VLE)} = (0.4,0)
+(0.5,0.0636)
+(0.55,0.0636)
+(0.6,0.0636)
+(0.65,0.0636)
+(0.7,0.0635)
+(0.71,0.0636)
+(0.72,0.0635)
+(0.73,0.0636)
+(0.74,0.0634)
+(0.75,0.0635)
+(0.76,0.0638)
+(0.77,0.0637)
+(0.78,0.0637)
+(0.79,0.0637)
+(0.8,0.0636)
+(0.81,0.0636)
+(0.82,0.0636)
+(0.83,0.0636)
+(0.84,0.0425)
+(0.85,0.0411)
+(0.86,0.0398)
+(0.87,0.0386)
+(0.88,0.0371)
+(0.89,0.0359)
+(0.9,0.0347)
+(0.91,0.0334)
+(0.92,0.032)
+(0.93,0.0309)
+(0.94,0.0296)
+(1,0.0223)
+(1.05,0.0164)
+(1.1,0.0108)
+(1.15,0.0056)
+(1.2,0.0007)
+(1.25,0)
.ENDS
*$
* 
.SUBCKT IS_SET VCC VEE DISABLE VIEN VIDIS PBAD
GIS VCC1 VEE VALUE = { IF ( (V(PBAD) > 2.5V) , 1u , IF ( V(DISABLE) > 2.5, V(VIEN), V(VIDIS) ) ) }
RIS VCC1 VCC 1
*RIS2 VCC VEE 100000000
.ENDS
*$

.SUBCKT 4ORGATE 1 2 3 4 5 VDD VSS
E1 6 0 VALUE = { IF( ((V(1)> (V(VDD)+V(VSS))/2 ) | (V(2)> (V(VDD)+V(VSS))/2 ) | (V(3)> (V(VDD)+V(VSS))/2 ) | (V(4)> (V(VDD)+V(VSS))/2 )), V(VDD), V(VSS) ) }
R1 5 6 1
.ENDS
*$
